US09399640B2
Step 2. 5-Bromo-4-methoxy-1H-indazole
A solution of 3-bromo-6-fluoro-2-methoxybenzaldehyde (0.727 g, 3.12 mmol) and methoxylamine hydrochloride (0.260 g, 3.12 mmol) in 1,2-dimethoxyethane (4 mL) was treated with potassium carbonate (0.472 g, 3.42 mmol) and stirred at 20° C. for 5 h. The reaction mixture was filtered and the filtrate was concentrated in vacuo to give a residue. This residue was dissolved in 1,2-dimethoxyethane (4 mL), the resultant solution was treated with hydrazine (4 mL), warmed to 100° C. and stirred at that temperature for 15 h. The reaction mixture was diluted with ethyl acetate and water. Layers were separated and the organic layer was separated, washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give a crude residue. This residue was triturated with ether to give the desired product (185 mg, 26%) as a gray solid. LCMS calculated for C8H8BrN2O (M+H)+: m/z=227.0, 229.0. found: 226.9, 229.0.

reactant | 3-bromo-6-fluoro-2-methoxybenzaldehyde | 3.12 mmol, 0.727 g | BrC=1C(=C(C=O)C(=CC1)F)OC | C8H6BrFO2
reactant | methoxylamine hydrochloride | 3.12 mmol, 0.260 g | Cl.O(C)N
reactant | potassium carbonate | 3.42 mmol, 0.472 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine | 4 mL | NN | H4N2
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-Bromo-4-methoxy-1H-indazole | 185 mg, 26% | BrC=1C(=C2C=NNC2=CC1)OC | C8H7BrN2O
